US20010020017A1
Methyl (2S)-3-(4-biphenylyl )-2-[(2-isopropoxy-3,4-dioxocyclobut-1-enyl)amino]propanoate
A mixture of methyl (2S)-2-amino-3-(4-biphenylyl)-propanoate hydrochloride (415 mg, 1142 mmol),3,4-diisopropoxy-3-cyclobutene-1,2-dione (281 mg, 1.42 mmol), DIPEA (247 μl, 1.42 mmol) and MeOH (10 ml) was stirred at room temperature overnight. The solvent was removed in vacuo and the residue purified by column chromatography (SiO2; DCM/MeOH, 98:2) to give the title compound (358 mg). δH (DMSO-d6, 390K) 8.50 (1H, d, J 8.0 Hz), 7.63-7.56 (4H, m), 7.47-7.42 (2H, m), 7.36-7.32 (3H, m), 5.24-5.18 (1H, m), 4.80-4.75 (1H, m), 3.74 (3H, s), 3.31 (1H, dd, J 14.2, 5.2 Hz), 3.13 (1H, dd, J, 14.2, 9.4 Hz), 1.38 (3H, d, J 6.0 Hz), 1.37 (3H, d, J 6.1 Hz); m/z (ES+, 70 V) 394 (MH+).

reactant | methyl (2S)-2-amino-3-(4-biphenylyl)-propanoate hydrochloride | 1142 mmol, 415 mg | Cl.N[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC=CC=C1
reactant | 3,4-diisopropoxy-3-cyclobutene-1,2-dione | 1.42 mmol, 281 mg | C(C)(C)OC=1C(C(C1OC(C)C)=O)=O | C10H14O4
reactant | DIPEA | 1.42 mmol, 247 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 10 ml | CO | CH4O
product | Methyl (2S)-3-(4-biphenylyl )-2-[(2-isopropoxy-3,4-dioxocyclobut-1-enyl)amino]propanoate | 358 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)OC)NC1=C(C(C1=O)=O)OC(C)C)C1=CC=CC=C1 | C23H23NO5
